US05244597
A solution of 5 g of 4-(5-decyl-2-pyrimidinyl)phenol in 50 ml of dichloromethane was treated at 0° C. while gassing with argon with a solution of 2.6 g of bromine in 50 ml of dichloromethane. The reaction mixture was stirred for a further 2 hours and then treated with water. The organic phase was separated and the aqueous phase was back-extracted three times with 50 ml of dichloromethane each time. The combined organic phases were washed with water, sodium hydrogen carbonate solution and again with water, dried over magnesium sulfate, filtered and subsequently concentrated. The residue was purified by chromatography on silica gel with toluene/ethyl acetate (vol. 4:1). Recrystallization from hexane gave 4.8 g of 2-bromo-4-(5-decyl-2-pyrimidinyl)phenol.

reactant | 4-(5-decyl-2-pyrimidinyl)phenol | 5 g | C(CCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C20H28N2O
reactant | bromine | 2.6 g | BrBr | Br2
reactant | water | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-bromo-4-(5-decyl-2-pyrimidinyl)phenol | 4.8 g | BrC1=C(C=CC(=C1)C1=NC=C(C=N1)CCCCCCCCCC)O | C20H27BrN2O
